data/mechanism_extracts/OrgChemFront/10.1039_D2QO01111E_sup_1.json
{"doi": "10.1039_D2QO01111E_sup_1", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical chlorosulfinylation of styrenes with arenethiols giving β-chloro sulfoxides via radical/radical-polar crossover and in situ sulfide-to-sulfoxide oxidation", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of arenethiol/thiolate to thiyl radical (and further to disulfide/sulfide oxidation to sulfoxide); thiyl radical adds to styrene to give a β-thio C-radical that is oxidized to a benzylic cation and trapped by chloride", "key_intermediates": [{"name": "diaryl disulfide (Int1)", "smiles": "[H]C1=CC(=CC=C1SSC2=CC=C(F)C=C2)F", "role": "transient"}, {"name": "β-hydrosulfide / phenethyl aryl sulfide (Int2)", "smiles": "Fc1ccc(SCCc2ccccc2)cc1", "role": "transient"}, {"name": "β-hydroxylsulfide (Int3)", "smiles": "Fc1ccc(SCC(O)c2ccccc2)cc1", "role": "reactive"}, {"name": "β-chlorosulfide (Int4)", "smiles": "Fc1ccc(SCC(Cl)c2ccccc2)cc1", "role": "reactive"}, {"name": "β-acetoxysulfide (Int5)", "smiles": "Fc1ccc(SCC(OC(C)=O)c2ccccc2)cc1", "role": "off_pathway"}, {"name": "β-hydroxylsulfoxide (Int6)", "smiles": "Fc1ccc(S(=O)CC(O)c2ccccc2)cc1", "role": "reactive"}, {"name": "aryl thiyl radical (ArS•)", "smiles": null, "role": "reactive"}, {"name": "β-thio benzylic radical", "smiles": null, "role": "transient"}, {"name": "β-thio benzylic cation", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes ArSH to ArS• (and ArSSAr); ArS• adds to styrene to give a β-thio benzylic radical, which is further oxidized at the anode to a benzylic cation and trapped by Cl- to deliver the β-chlorosulfide; subsequent anodic oxidation of the sulfide to the sulfoxide (with O incorporation from H2O) furnishes the β-chloro sulfoxide product.", "rate_determining_step": null, "probe_reagents": [{"name": "H2 18O labeling", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Product 3 shows 18O incorporation (O16/O18 = 95:5 from a 90:10 H2 16O/H2 18O feed), indicating the sulfoxide oxygen originates from water"}, {"name": "(1-(2-phenylcyclopropyl)vinyl)benzene (radical clock 56)", "smiles": "C(=C)(c1ccccc1)C1CC1c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened product 57 obtained in 10% yield (dr 2:1), consistent with a carbon-centered radical intermediate"}, {"name": "time-course sampling with 19F NMR (4-fluorothiophenol)", "smiles": "Fc1ccc(S)cc1", "purpose": "intermediate_trap", "observation": "Detection and kinetic profiling of Int1-Int6 (disulfide, β-hydrosulfide, β-hydroxylsulfide, β-chlorosulfide, β-acetoxysulfide, β-hydroxylsulfoxide) as transient intermediates during electrolysis"}, {"name": "HCl additive control (sulfide → sulfoxide)", "smiles": "Cl", "purpose": "other", "observation": "Electrolysis of a model sulfide gives sulfoxide in 11% without HCl vs 31% with HCl in 1,4-dioxane, indicating HCl promotes the S→S=O oxidation step"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "isotope_label", "intermediate_trap_other", "kinetic_order", "cyclic_voltammetry", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "18O labeling confirms water (not O2 or AcOH) as the sulfoxide oxygen source. Time-resolved 19F NMR sampling reveals a cascade: ArSH → ArSSAr → β-thioether → β-functionalized (OH/Cl/OAc) sulfides → β-hydroxysulfoxide → final β-chloro sulfoxide. Radical clock supports a discrete C-radical, while Cl-/OH/OAc trapping points to a benzylic cation (radical-polar crossover). Cyclic voltammetry (Section 6.6) further supports anodic oxidation of the thiol/sulfide."}
